US06359138B1
(RS)-5-Methoxy-2,3-dihydro-benzofuran-2-carboxylic acid
To a suspension of 5-methoxy-benzofuran-2-carboxylic acid (14 g, 72.8 mmol) in MeOH (600 ml) was added magnesium turnings (10.6 g, 437 mmol) and the mixture was vigorously mechanically stirred for 2 hr keeping the temperature below 30° C. After 2 hr, further magnesium was added (10.6 g, 437 mmol) and the mixture stirred a further 4 hr again maintaining the temperature below 30° C. After 6 hr. the mixture was concentrated to ˜100 ml and distilled H2O (600 ml) was added and the pH adjusted to 1-2 with 1N sulfuric acid. The crude mixture was extracted with EtOAc (2×300 ml) and the combined extracts washed with H2O (200 ml). The combined organic phase was dried with Na2SO4, filtered and evaporated to afford yellowish solid, which was recrystallised from hot toluene (100 ml) to afford white crystals (9.2 g, 47.4 mmol, 65%) Mp. 98-100° C., MS: m/e=194.1 (M+).

reactant | 5-methoxy-benzofuran-2-carboxylic acid | 72.8 mmol, 14 g | COC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H8O4
reactant | magnesium | 437 mmol, 10.6 g | [Mg] | Mg
solvent | MeOH | 600 ml | CO | CH4O
product | (RS)-5-Methoxy-2,3-dihydro-benzofuran-2-carboxylic acid | 47.4 mmol, 9.2 g, 65% | COC=1C=CC2=C(CC(O2)C(=O)O)C1 | C10H10O4
